US08227639B2
2-(Morpholin-4-ylsulfonyl)chlorobenzene
To a solution of a 2-chlorobenzene sulfonyl chloride (10 g, 47.4 mmol) in DCM (100 ml) cooled to 0° C. was added pyridine (5.7 ml, 71.1 mmol) and morpholine (6.2 ml, 71.1 mmol) dropwise. Stirring was continued for 15 minutes after which time no sulfonyl chloride was evident by LC-MS. The reaction was quenched by the addition of 2N HCl, washed with further portions of 2N HCl, dried over sodium sulfate, filtered and concentrated in vacuo to yield the title compound without need for additional purification. (11.2 g, 100%). δH (400 MHz, DMSO-d6) 7.97 (1H, dd, 7.8, 1.5 Hz), 7.66-7.77 (2H, m), 7.58 (1H, ddd, 8.1, 6.7, 1.8 Hz), 3.57-3.64 (4H, m), 3.11-3.18 (4H, m); TR=1.25 min.

reactant | 2-chlorobenzene sulfonyl chloride | 47.4 mmol, 10 g | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | pyridine | 71.1 mmol, 5.7 ml | N1=CC=CC=C1 | C5H5N
reactant | morpholine | 71.1 mmol, 6.2 ml | N1CCOCC1 | C4H9NO
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(Morpholin-4-ylsulfonyl)chlorobenzene | N1(CCOCC1)S(=O)(=O)C1=C(C=CC=C1)Cl | C10H12ClNO3S
